US07345068B2
A solution of ethyl ester of [2-(2-naphthyl)-oxazol-4-yl]acetic acid (434 mg, 1.54 mmol) in tetrahydrofuran (20 ml) was added dropwise to a suspension of lithium aluminium hydride (66 mg, 1.74 mmol) in tetrahydrofuran (15 ml) with stirring under ice cooling and the mixture was stirred at the same temperature for 2.5 hrs. To the reaction mixture were added water (0.1 ml), 15% aqueous solution of sodium hydroxide (0.1 ml), water (0.3 ml) and sodium sulfate (3 g )in turn. Insoluble materials were filtered off, and the solvent was distilled off under reduced pressure. The residue was purified by column chromatography on silica gel (n-hexane/ethyl acetate=2−1) to give 2-[2-(2-naphthyl)-oxazol-4-yl]ethanol (323 mg, 88%) as pale yellow crystals.

reactant | [2-(2-naphthyl)-oxazol-4-yl]acetic acid | 1.54 mmol, 434 mg | C1=C(C=CC2=CC=CC=C12)C=1OC=C(N1)CC(=O)O | C15H11NO3
reactant | lithium aluminium hydride | 1.74 mmol, 66 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium hydroxide | 0.1 ml | [OH-].[Na+]
reactant | sodium sulfate | S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | water | 0.3 ml | O | H2O
solvent | water | 0.1 ml | O | H2O
product | 2-[2-(2-naphthyl)-oxazol-4-yl]ethanol | 323 mg, 88% | C1=C(C=CC2=CC=CC=C12)C=1OC=C(N1)CCO | C15H13NO2
